US04321275
n-Butyl lithium (69 ml. of a 1.2 M solution in hexane) was added to a solution of dimethyl methylphosphonate (10.3 g.) in dry tetrahydrofuran at -78° C. in an atmosphere of nitrogen. After 10 minutes, a solution of phenoxyacetylchloride (4.1 g.) in dry tetrahydrofuran (20 ml.) was added dropwise, and the mixture was stirred for 4 hours at -78° C. The reaction mixture was neutralised with acetic acid and the solvents were removed under reduced pressure. The residue was shaken with a mixture of ether (100 ml.) and water (20 ml.), and the organic phase was separated and washed with brine. The solution was dried, the solvents were evaporated and the residue was distilled in a bulb distillation apparatus at an oven temperature of 160° C. and 0.1 mm. pressure, to give dimethyl 2-oxo-3-phenoxypropylphosphonate.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 10.3 g | CP(OC)(OC)=O | C3H9O3P
reactant | phenoxyacetylchloride | 4.1 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dimethyl 2-oxo-3-phenoxypropylphosphonate | O=C(CP(OC)(OC)=O)COC1=CC=CC=C1 | C11H15O5P
